US08912330B2
6-(1-benzyl-1H-pyrazol-4-yl)-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine
The entitled compound was prepared from 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine and (1-benzyl-1H-pyrazol-4-yl)boronic acid according to the procedure described in example 4.

reactant | 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine | BrC=1C=C2C(=NC1)C=CN2OC(C)C2=C(C(=CC=C2Cl)F)Cl | C15H10BrCl2FN2O
reactant | (1-benzyl-1H-pyrazol-4-yl)boronic acid | C(C1=CC=CC=C1)N1N=CC(=C1)B(O)O | C10H11BN2O2
product | 6-(1-benzyl-1H-pyrazol-4-yl)-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine | C(C1=CC=CC=C1)N1N=CC(=C1)C=1C=C2C(=NC1)C=CN2OC(C)C2=C(C(=CC=C2Cl)F)Cl | C25H19Cl2FN4O
